* /home/fossee/esim-workspace/integrator/integrator.cir

.include ua741.sub
x1 net-_r2-pad1_ net-_c1-pad2_ out ua741
r1  in net-_c1-pad2_ 10k
r2  net-_r2-pad1_ gnd 1k
r3  out gnd 1k
c1  out net-_c1-pad2_ 100n
r4  net-_c1-pad2_ out 100k
v1  in gnd pwl(0m 0 0.5m 5 25m 5 25.5m -5 50m -5 50.5m 5 75m 5 75.5m -5 100m -5)
* u1  in plot_v1
* u2  out plot_v1
.tran 10e-03 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in)
plot v(out)
.endc
.end
